US06313122B1
Preparation of 2-(4-Acetylbenzoylamino)-N-(4-methoxyphenyl)benzamide.
Using the procedure described in Example 55, Part B, 2-amino-N-(4-methoxyphenyl)benzamide (1.06 g, 4.36 mmol) was reacted with 4-acetylbenzoic acid to yield 292 mg (37%) of the title compound as a light yellow solid.

reactant | 2-amino-N-(4-methoxyphenyl)benzamide | 4.36 mmol, 1.06 g | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C14H14N2O2
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 2-(4-Acetylbenzoylamino)-N-(4-methoxyphenyl)benzamide | 292 mg, 37% | C(C)(=O)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC=C2)C=C1 | C23H20N2O4
